US06964961B2
(3R)-[7-(2,3-Dimethyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-(3-methoxy-pyrrolidin-1-yl)-methanone
A solution of (3R)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-(3-methoxy-pyrrolidin-1-yl)-methanone (139 mg, 0.47 mmol) and 2,3-dimethyl-1H-indol-5-ylamine (75 mg, 0.47 mmol) in EtOH (10 mL) was heated to reflux. After 12 h the reaction mixture was concentrated onto silica gel (5 mL) and purified on silica gel by flash column chromatography CH2Cl2/MeOH/NH4OH (98.5/1/0.5) to afford the title compound as a yellow solid, (190 mg). MS: 421.3 (MH+); HPLC Rf: 4.708 min.; HPLC purity: 99%.

reactant | (3R)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-(3-methoxy-pyrrolidin-1-yl)-methanone | 0.47 mmol, 139 mg | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2C[C@@H](CC2)OC | C13H13ClN2O2S
reactant | 2,3-dimethyl-1H-indol-5-ylamine | 0.47 mmol, 75 mg | CC=1NC2=CC=C(C=C2C1C)N | C10H12N2
solvent | EtOH | 10 mL | CCO | C2H6O
product | (3R)-[7-(2,3-Dimethyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-(3-methoxy-pyrrolidin-1-yl)-methanone | 190 mg | CC=1NC2=CC=C(C=C2C1C)NC1=C2C(=NC=C1)C=C(S2)C(=O)N2C[C@@H](CC2)OC | C23H24N4O2S
